US20010019995A1
To a solution made of 12.12 g (58 mmol) of 4-bromo-pent-4-enoic acid ethyl ester and 51 g (202 mmol) of bromoform and 100 g of methylene chloride was added 2.0 g of N,N′-dibenzyl-N,N,N′,N′-tetramethylethylenediammonium dibromide and 27.1 g (218 mmol) of 45% aqueous potassium hydroxide. The reaction mixture was stirred rapidly for 4 days. The resulting mixture was transferred to a separatory funnel and the phases were separated. The solvent was removed from the isolated organic layer in vacuo. This residue was extracted with hexanes from water. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo. This residue was purified by column chromatography with 10% diethyl ether/hexanes to yield 14.6 g (66.3% of theory) of 3-(1,2,2-tribromo-cyclopropyl)-propionic acid ethyl ester.

reactant | 4-bromo-pent-4-enoic acid ethyl ester | 58 mmol, 12.12 g | C(C)OC(CCC(=C)Br)=O | C7H11BrO2
reactant | bromoform | 202 mmol, 51 g | C(Br)(Br)Br | CHBr3
reactant | N,N′-dibenzyl-N,N,N′,N′-tetramethylethylenediammonium dibromide | 2.0 g | [Br-].[Br-].C(C1=CC=CC=C1)[N+](CC[N+](C)(C)CC1=CC=CC=C1)(C)C
reactant | potassium hydroxide | 218 mmol, 27.1 g | [OH-].[K+]
solvent | methylene chloride | 100 g | C(Cl)Cl | CH2Cl2
product | 3-(1,2,2-tribromo-cyclopropyl)-propionic acid ethyl ester | 14.6 g, 66.3% | C(C)OC(CCC1(C(C1)(Br)Br)Br)=O | C8H11Br3O2
